US04228100
Reaction of THPC (9.53 g, 0.05 mol) with N-methylurea (14.82 g, 0.2 mol) in toluene (75 ml), following Example 1, gave 20.78 g (100%) of tetrakis(3-methylureidomethyl)phosphonium chloride (I, R=R'=H, R"=CH3, X=Cl) as a brittle amber glass.

reactant | THPC | 0.05 mol, 9.53 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | N-methylurea | 0.2 mol, 14.82 g | CNC(=O)N | C2H6N2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | tetrakis(3-methylureidomethyl)phosphonium chloride | 20.78 g, 100% | [Cl-].CNC(NC[P+](CNC(=O)NC)(CNC(=O)NC)CNC(=O)NC)=O | InChI=1S/C12H27N8O4P.ClH/c1-13-9(21)17-5-25(6-18-10(22)14-2,7-19-11(23)15-3)8-20-12(24)16-4;/h5-8H2,1-4H3,(H7-,13,14,15,16,17,18,19,20,21,22,23,24);1H
